US05830875
Preparation of (R) or [(S)-3-Trimethylsilyloxy-2-methyl-propyl]triphenylphosphonium bromide
Commercially available (R) or [(S)-3-hydroxy-2-methyl-propyl]triphenylphosphonium bromide was treated in dry N,N-dimethylformamide (DMF) with excess bis(trimethylsilyl)trifluoroacetamide (BSTFA) at room temperature over 12 h to silylate the hydroxyl function. The solvent was removed in vacuo and the residue recrystallized from ether-hexane or dried in a Kugelrohr oven at 75° C. overnight under vacuum. The degree of silylation was determined by NMR integration of the silyl protons in the final salts.

reactant | [(S)-3-hydroxy-2-methyl-propyl]triphenylphosphonium bromide | [Br-].OC[C@@H](C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | bis(trimethylsilyl)trifluoroacetamide | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [(S)-3-Trimethylsilyloxy-2-methyl-propyl]triphenylphosphonium bromide | [Br-].C[Si](OC[C@@H](C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(C)C | InChI=1S/C25H32OPSi.BrH/c1-22(20-26-28(2,3)4)21-27(23-14-8-5-9-15-23,24-16-10-6-11-17-24)25-18-12-7-13-19-25;/h5-19,22H,20-21H2,1-4H3;1H/q+1;/p-1/t22-;/m0./s1
